US04555572
1-Chloro-7-methoxy-4-nitro-9(10H)-acridinone
A mixute of 12.9 g of 6-chloro-2[(4-methoxyphenyl)amino]-3-nitrobenzoic acid, 25 ml of chlorobenzene and 50 ml of phosphorus oxychloride was stirred and heated to reflux temperature over a period of one hour, and held under reflux for 4.5 hours. The mixture was cooled, filtered, and the filtrate concentrated to a viscous dark residue by evaporation under reduced pressure. The evaporation residue, and the precipitate collected previously were dissolved in 130 ml of acetic acid and cautiously treated with 15 ml of water, while stirring. The dark red title compound is collected, washed with water, and dried to 11.5 g (95%), mp 262-264 degrees.

reactant | 6-chloro-2[(4-methoxyphenyl)amino]-3-nitrobenzoic acid | 12.9 g | ClC1=CC=C(C(=C1C(=O)O)NC1=CC=C(C=C1)OC)[N+](=O)[O-] | C14H11ClN2O5
reactant | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chlorobenzene | 25 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-Chloro-7-methoxy-4-nitro-9(10H)-acridinone | ClC1=CC=C(C=2NC3=CC=C(C=C3C(C12)=O)OC)[N+](=O)[O-] | C14H9ClN2O4
